US04066672
A solution of 47 g (0.20 mole) of 5-(4-nitrophenyl)furfuryl chloride and 58 g (0.80 mole) of diethylamine in 250 ml of benzene was heated under reflux for 8 hrs. After cooling to room temperature, the solid diethylamine hydrochloride (28 g, 95%) was collected by filtration and discarded. The filtrate was washed with 10% aqueous Na2CO3 and water and dried over MgSO4. The solvent was removed on a rotary evaporator, and the residual oil was dissolved in 250 ml of anhydrous ether and 50 ml of absolute methanol. The solution was treated with hydrogen chloride, and the solid which was deposited was collected by filtration to give 45 g (73%) of diethyl[5-(4-nitrophenyl)furfuryl]amine hydrochloride. Recrystallization from CH3NO2 gave an analytical sample, m.p. 220°-237° (dec.).

reactant | 5-(4-nitrophenyl)furfuryl chloride | 0.20 mole, 47 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(CCl)O1 | C11H8ClNO3
reactant | diethylamine | 0.80 mole, 58 g | C(C)NCC | C4H11N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | diethyl[5-(4-nitrophenyl)furfuryl]amine hydrochloride | 45 g, 73% | Cl.C(C)N(CC1=CC=C(O1)C1=CC=C(C=C1)[N+](=O)[O-])CC | InChI=1S/C15H18N2O3.ClH/c1-3-16(4-2)11-14-9-10-15(20-14)12-5-7-13(8-6-12)17(18)19;/h5-10H,3-4,11H2,1-2H3;1H
